US04071686
1. [(4-chlorobenzylidene amino)oxy] acetic acid
4.2 g of 4-chlorobenzaldehyde and 3.3 g of hemihydrochloride of amino-oxyacetic acid were dissolved in 50 ml of 90% ethanol. The solution was mixed with 7.4 g of sodium acetate and then refluxed for 20 minutes. The reaction mixture was subsequently concentrated by evaporation in a vacuum. After an excess of 2N sodium hydroxide had been added, the residue was twice extracted with ether, after which the remaining aqueous solution was acidified with 2N hydrochloric acid and again extracted twice with ether. The latter ethereal solution was washed twice with water, then dried over anhydrous sodium sulfate and subsequently concentrated by evaporation. The residue was crystallized from a mixture of ether and petroleum ether, then from highly dilute ethanol and ultimately twice from a mixture of benzene and petroleum ether. The substance obtained melted at 121°-123° C.

reactant | 4-chlorobenzaldehyde | 4.2 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | amino-oxyacetic acid | NOCC(=O)O | C2H5NO3
reactant | sodium acetate | 7.4 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | [(4-chlorobenzylidene amino)oxy] acetic acid | ClC1=CC=C(C=NOCC(=O)O)C=C1 | C9H8ClNO3
